US09227985B2
The 3-phenyl-3,4-dihydro-2H-1,4-benzoxazin-5-amine (0.95 g, 4.2 mmol) was dissolved in THF (30 mL) and DIPEA (1.5 mL, 8.4 mmol) at room temperature (room temperature). The N,N-carbonyldiimidazole (0.82 g, 5.0 mmol) was added portion wise over 10 min. The reaction was heated to 70° C. for 1 h and allowed to cool to room temperature and stirred overnight. To the reaction mixture was added EtOAc, and then the mixture was washed with water, sodium bicarbonate water and brine, then dried over magnesium sulfate and concentrated to give crude product as a dark oil. The oil was triturated with ethyl ether to give a precipitate. The solids were triturated twice with ethyl ether and then the solids were collected and air dried to give 4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one as a brown solid (0.51 g, 48%). LCMS calc. for C15H13N2O2 (M+H)+: m/z=253.1. found: 253.1. 1H NMR (300 MHz, DMSO-d6) δ 10.88 (s, 1H), 7.39-7.22 (m, 3H), 7.15-7.04 (m, 2H), 6.88 (t, J=8.0 Hz, 1H), 6.67 (d, J=7.8 Hz, 1H), 6.57 (d, J=8.2 Hz, 1H), 5.45 (s, 1H), 4.54 (dd, J=11.6, 2.2 Hz, 1H), 4.37 (dd, J=11.6, 3.0 Hz, 1H).

reactant | 3-phenyl-3,4-dihydro-2H-1,4-benzoxazin-5-amine | 4.2 mmol, 0.95 g | C1(=CC=CC=C1)C1COC=2C(N1)=C(C=CC2)N | C14H14N2O
reactant | DIPEA | 8.4 mmol, 1.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N,N-carbonyldiimidazole | 5.0 mmol, 0.82 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 0.51 g, 48% | C1(=CC=CC=C1)C1COC2=C3N1C(NC3=CC=C2)=O | C15H12N2O2
